US04904690
2-Cyclohexyl-8-methyl-4-oxo-4H-[1]-benzopyran
1-Cyclohexyl-3-(2-hydroxy-3-methylphenyl)-1,3-propanedione (5.2 g) was dissolved in dichloromethane (50 ml). Trifluoroacetic acid (4 ml) was added to the solution and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure and then extracted with ethyl acetate. The extract was washed with water, saturated aqueous sodium bicarbonate and then water and dried (MgSO4). The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate (4:1)) to obtain the title compound as crystals. The crystals were recrystallized from ethyl acetate and hexane to obtain prisms (3.66 g), m.p. 108°-109° C., yield 75.6%.

reactant | 1-Cyclohexyl-3-(2-hydroxy-3-methylphenyl)-1,3-propanedione | 5.2 g | C1(CCCCC1)C(CC(=O)C1=C(C(=CC=C1)C)O)=O | C16H20O3
reactant | Trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-Cyclohexyl-8-methyl-4-oxo-4H-[1]-benzopyran | C1(CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2C | C16H18O2
